US06350771B1
A mixture of 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-trifluoromethylthio-1H-pyrazole-3-carboxaldehyde (0.66 g), methoxyamine hydrochloride (0.2 g) and pyridine was stirred at room temperature for 26 hours. Pyridine was evaporated and the residue dissolved in ethyl acetate/acetonitrile, washed with 1% aqueous HCl, dried (MgSO4) and evaporated. The residue was purified by silica gel column chromatography, eluting with hexane/ethyl acetate, to give 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-trifluoromethylthio-1H-pyrazole-3-carboxaldehyde O-methyloxime (0.3 g) as a white solid m.p. 129-131.50° C. Compound 9.

reactant | 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-trifluoromethylthio-1H-pyrazole-3-carboxaldehyde | 0.66 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C=O)SC(F)(F)F | C12H5Cl2F6N3OS
reactant | methoxyamine hydrochloride | 0.2 g | Cl.CON
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-trifluoromethylthio-1H-pyrazole-3-carboxaldehyde O-methyloxime | 0.3 g | CON=CC1=NN(C(=C1SC(F)(F)F)N)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C13H8Cl2F6N4OS
